US07265120B2
A suspension of 6-[5-amino-6-(methylsulfonyl)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone (205 mg) and sodium methoxide (57.7 mg) in MeOH (0.6 m) was refluxed for 24 hours. Water (3 ml) was added to the reaction mixture to give a precipitate. The precipitate was collected by filtration and purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (60:40 v/v) to give a solid. The solid was suspended in acetone and collected by filtration to give 6-(5-amino-6-methoxy-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (154 mg).

reactant | 6-[5-amino-6-(methylsulfonyl)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 205 mg | NC=1N=C(C(=NC1S(=O)(=O)C)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C18H19N5O3S
reactant | sodium methoxide | 57.7 mg | C[O-].[Na+]
reactant | Water | 3 ml | O | H2O
solvent | MeOH | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
product | 6-(5-amino-6-methoxy-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 154 mg | NC=1N=C(C(=NC1OC)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C18H19N5O2
